US08110688B2
Synthesis of 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-N-methyl-1H-indole-6-carboxamide
1.0 g of 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylic acid was dissolved in 25 mL of ethanol, added with 851 mg of 1,1′-cabonyldiimidazole and the reaction mixture was stirred at 40° C. for 2 hours. The reaction mixture was cooled with an ice-water bath, added 1.81 mL of 40% methylamine aqueous solution thereto and stirred for 50 minutes. The reaction mixture was added with 40 mL of ethyl acetate and 20 mL of water and the organic layer was separated. The organic layer was washed with 20 mL of 10% sodium chloride solution and added with 8.5 mL of 1 N hydrochloric acid to adjust the pH to 7. The aqueous layer was discarded and the organic layer was washed with 10 mL of water. The organic layer was concentrated in vacuo, added with 3 mL of 1-propanol and concentrated again and the title compound was obtained.

reactant | 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylic acid | 1.0 g | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)O)(C)C)=O | C28H32N2O5
reactant | 1,1′-cabonyldiimidazole | 851 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 1.81 mL | CN | CH5N
reactant | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-N-methyl-1H-indole-6-carboxamide | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)NC)(C)C)=O | C29H35N3O4
